US04518607
1-[4-(4-Chlorophenyl)-2-methanesulfonyloxy-n-butyl]imidazole hydrochloride (3.65 g) (prepared in Preparation 10) in methylene chloride (50 ml) was shaken with excess 10% aqueous potassium carbonate solution until no solid remained. The organic layer was separated, dried (MgSO4) and evaporated to give 1-[4-(4-chlorophenyl)-2-methanesulfonyloxy-n-butyl]imidazole as a solid.

reactant | 1-[4-(4-Chlorophenyl)-2-methanesulfonyloxy-n-butyl]imidazole hydrochloride | 3.65 g | Cl.ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)OS(=O)(=O)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-chlorophenyl)-2-methanesulfonyloxy-n-butyl]imidazole | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)OS(=O)(=O)C | C14H17ClN2O3S
